US09416125B2
Preparation of 1-(4-ethoxy-2,6-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]-pyrazole-3-carbonitrile
3.40 g of 1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile (CAS-RN 851776-29-9) (25.5 mmol, 1.00 eq) were dissolved in 35 mL dry DMF under nitrogen atmosphere. 7.05 g 2-(bromomethyl)-5-ethoxy-1,3-difluorobenzene (28.1 mmol, 1.10 eq.) and 9.98 g cesiumcarbonate (30.1 mmol, 1.20 eq.) were added and stirred over night at rt. DCM and water were added, the aqueous phase was washed twice with DCM, the organic phase was washed with brine and was dried with magnesiumsulfate, was concentrated in vacuo and purified by flash chromatography (hexane/tert-butyl methyl ether-gradient with hexane 100-70%) to provide 1.07 g (3.45 mmol, 14%) of the analytically pure target compound.

reactant | 1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile | 25.5 mmol, 3.40 g, 1.00 eq | N1N=C(C2=C1CCC2)C#N | C7H7N3
reactant | 2-(bromomethyl)-5-ethoxy-1,3-difluorobenzene | 28.1 mmol, 7.05 g, 1.10 eq. | BrCC1=C(C=C(C=C1F)OCC)F | C9H9BrF2O
reactant | cesiumcarbonate | 30.1 mmol, 9.98 g, 1.20 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(4-ethoxy-2,6-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]-pyrazole-3-carbonitrile | C(C)OC1=CC(=C(CN2N=C(C3=C2CCC3)C#N)C(=C1)F)F | C16H15F2N3O
